US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of N,N,5-trimethyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl)methyl]-1H-imidazole-1-sulphonamide (401 mg) in a mixture of dioxane (150 ml) and acetonitrile (150 ml) containing triethylamine (1 ml) was irradiated at room temperature with a medium pressure mercury lamp for 24 h. The reaction mixture was then concentrated in vacuo onto FCC silica and purified by FCC eluting with System A (100:8:1) to give the title compound (203 mg) as a solid. The 1H-n.m.r. and t.l.c. data obtained for this material were consistent with those obtained for the product of Example 20.

reactant | N,N,5-trimethyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl)methyl]-1H-imidazole-1-sulphonamide | 401 mg | CN(S(=O)(=O)N1C=NC(=C1C)CN1C(C2=C(N(C=3C=CC=CC23)C)CC1)=O)C | C19H23N5O3S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 203 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
